US06350907B1
A solution of (2R, 5E)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pent-4-enamide (210 mg, 0.34 mmol) in ethanol:ethyl acetate=5:1 (10 mL) was hydrogenated over 10% palladium on charcoal (20 mg) at 3 bar and 20° C. for 3 h. The mixture was filtered through Arbocel filter aid and concentrated under reduced pressure to give (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pentanamide (103 mg, 49%), as a colourless solid, which was used for Example 9 without purification.

reactant | (2R, 5E)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pent-4-enamide | 0.34 mmol, 210 mg | CC1(OC([C@@H](O1)[C@H](C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1)C\C=C\C1=CC(=C(C=C1)OC1=CC=CC=C1)F)=O)C | C36H41FN2O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pentanamide | 103 mg, 49% | CC1(OC([C@@H](O1)[C@H](C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1)CCCC1=CC(=C(C=C1)OC1=CC=CC=C1)F)=O)C | C36H43FN2O6
